US05973156
To a solution of 2-(2-chlorophenyl)-1-methoxypropene (712 mg, 3.9 mmol) in ether (8 ml) at 0° C. was added perchloric acid (70%, 3 ml). After stirring for 1 h the solution was diluted with ether (8 ml) and washed with water (2×20 ml). The organic phase was separated, dried (Na2SO4) and evaporated. The crude 2-(2-chlorophenyl)propanal was isolated as a colourless oil and used without further purification.

reactant | 2-(2-chlorophenyl)-1-methoxypropene | 3.9 mmol, 712 mg | ClC1=C(C=CC=C1)C(=COC)C | C10H11ClO
reactant | perchloric acid | 3 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | ether | 8 ml | CCOCC | C4H10O
solvent | ether | 8 ml | CCOCC | C4H10O
product | 2-(2-chlorophenyl)propanal | ClC1=C(C=CC=C1)C(C=O)C | C9H9ClO
